US03984465
2-Ethyl-2-n-propyl-5-hydroxy-6,7-dichloro-1-indanone is prepared following substantially the same procedure described in Example 5, Step F, using the following substances: 2-ethyl-2-n-propyl-5methoxy-6,7-dichloro-1-indanone (11 g., .037 mole), aluminum chloride (12.5 g., 0.094 mole) and heptane (400 ml.). The above procedure gives 9.0 g. of 2-ethyl-2-n-propyl-5-hydroxy-6,7-dichloro-1-indanone which after recrystallization from methylcyclohexane melts at 153° C.

reactant | 2-ethyl-2-n-propyl-5methoxy-6,7-dichloro-1-indanone | .037 mole, 11 g | C(C)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)CCC | C15H18Cl2O2
reactant | aluminum chloride | 0.094 mole, 12.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | heptane | 400 ml | CCCCCCC | C7H16
product | 2-Ethyl-2-n-propyl-5-hydroxy-6,7-dichloro-1-indanone | C(C)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)CCC | C14H16Cl2O2
